US06437146B1
To a mixture of 3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzoic acid (140 mg, 0.331 mmol) and 2-phenylethylamine (0.046 ml, 0.364 mmol) in DMF (5 ml) was added 1-hydroxybenzotrioxazole (49 mg, 0.364 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (95 mg, 0.495 mmol). After stirring the mixture at room temperature for 2.5 hours, the reaction mixture was diluted with EtOAc (30 ml), washed with water, saturated sodium hydrogencarbonate solution, water, and brine. The resultant mixture was dried over magnesium sulfate, and evaporated in vacuo. The resultant residue was purified by silica gel column chromatography (hexane:EtOAc, 2:1 elution) to give N-(2-phenylethyl)-3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzamide (172.1 mg, 99%).

reactant | 3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzoic acid | 0.331 mmol, 140 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@H]1[C@@H](CCC1)CC=1C=C(C(=O)O)C=CC1 | C28H25NO3
reactant | 2-phenylethylamine | 0.364 mmol, 0.046 ml | C1(=CC=CC=C1)CCN | C8H11N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.495 mmol, 95 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | N-(2-phenylethyl)-3-{[(1S,2R)-2-(4,5-diphenyloxazol-2-yl)-1-cyclopentyl]methyl}benzamide | 172.1 mg, 99% | C1(=CC=CC=C1)CCNC(C1=CC(=CC=C1)C[C@H]1[C@@H](CCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C36H34N2O2
